US08709747B2
Air was removed from a solution of 2,7-diethynyl-9,9-dibutyl-9H-fluorene (0.150 g, 0.460 mmol) and 5-iodothiophene-2-carboxaldehyde (Wu, L.-H.; Chu, C.-S.; Janarthanan, N.; Hsu, C.-S. J. Polym. Res. 2000, 7, 125-134) (0.251 g, 1.06 mmol) in 6.5 mL of toluene/Et3N (4/1) by blowing argon for 20 min. Then CuI (7.0 mg, 0.0037 mmol) and Pd(PPh3)2Cl2 (27 mg, 0.0039 mmol) were added, and deaeration was continued for 10 min. Thereafter the mixture was stirred at 40° C. for 16 h. The solvent was removed under reduced pressure, and the crude product was purified by column chromatography (heptane/CH2Cl2 50:50 then 40:60) to yield 245 mg (97%) of 5,5′-(9,9-dibutyl-9H-fluorene-2,7-diyldi-2,1-ethynediyl)bis-2-thiophenecarboxaldehyde; 1H NMR (300.13 MHz, CDCl3) δ 9.80 (s, 2H), 7.61 and 7.26 (AX, JAX=3.9 Hz, 4H), 7.62 (d, J=8.5 Hz, 2H), 7.47 (d, J=8.5 Hz, 2H), 7.45 (s, 2H), 1.93 (m, 4H), 1.02 (m, 4H), 0.60 (t, J=7.3 Hz, 6H), 0.51 (m, 4H); 13C NMR (75.46 MHz, CDCl3) δ 182.4, 151.4, 143.9, 141.4, 136.1, 133.0, 132.5, 131.0, 126.0, 120.9, 120.4, 98.9, 82.6, 55.3, 40.1, 25.9, 23.0, 13.8; HRMS (ESI) calcd for C35H30O2S2 (M+·) m/z 546.16872. found 546.1687.

reactant | 2,7-diethynyl-9,9-dibutyl-9H-fluorene | 0.460 mmol, 0.150 g | C(#C)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C#C)(CCCC)CCCC | C25H26
reactant | 5-iodothiophene-2-carboxaldehyde | 1.06 mmol, 0.251 g | IC1=CC=C(S1)C=O | C5H3IOS
solvent | toluene Et3N | 6.5 mL | C1(=CC=CC=C1)C.CCN(CC)CC
catalyst | CuI | 0.0037 mmol, 7.0 mg | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.0039 mmol, 27 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5,5′-(9,9-dibutyl-9H-fluorene-2,7-diyldi-2,1-ethynediyl)bis-2-thiophenecarboxaldehyde | 245 mg, 97% | C(CCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C#CC1=CC=C(S1)C=O)C#CC1=CC=C(S1)C=O)CCCC | C35H30O2S2
